US06756373B1
2-Isobutoxy-5-iodonicotinic Acid
N-Iodosuccinamide (18.22 g, 0.08 mol), trifluoroacetic acid (100 mL) and trifluoroacetic anhydride (25 mL) were added to 2-isobutoxynicotinic acid (10.55 g, 0.054 mol). The mixture was refluxed for 2.5 h, cooled and the solvents evaporated. The residue was extracted from water with ethyl acetate and the organics washed with water (twice) and brine (twice), dried (MgSO4) and concentrated. The red residue was redissolved in ethyl acetate washed with sodium thiosulfate solution (twice), water (twice), brine (twice), redried (MgSO4) and concentrated to give the desired product as a yellow solid.

reactant | N-Iodosuccinamide | 0.08 mol, 18.22 g | INC(CCC(=O)N)=O | C4H7IN2O2
reactant | trifluoroacetic anhydride | 25 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-isobutoxynicotinic acid | 0.054 mol, 10.55 g | C(C(C)C)OC1=C(C(=O)O)C=CC=N1 | C10H13NO3
solvent | trifluoroacetic acid | 100 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Isobutoxy-5-iodonicotinic Acid | C(C(C)C)OC1=C(C(=O)O)C=C(C=N1)I | C10H12INO3
